US05451700
A stirred solution of 4-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide (40.0 g, 87.7 mmol) in 500 mL anhydrous methylene chloride is treated with phenyl acetate (11.1 mL, 87.7 mmol). The solution is stirred 3 hours, concentrated in vacuo and the resulting liquid is purified by chromatography on silica gel (850 g) with 30% ethyl acetate/hexane as the eluent to afford 4-[5-[4-(acetyliminoaminomethyl)phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide as a colorless foam; CHN calculated for C28H39N3O5 :

reactant | 4-[5-[4-(aminoiminomethyl)phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | 87.7 mmol, 40.0 g | NN=CC1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1 | C26H37N3O4
reactant | phenyl acetate | 87.7 mmol, 11.1 mL | C(C)(=O)OC1=CC=CC=C1 | C8H8O2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-[4-(acetyliminoaminomethyl)phenoxy]pentyloxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | C(C)(=O)N=NCC1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1 | C28H39N3O5
